US06274758B1
(E)-3-(Toluene-4-sulfonyl)-2-propylacrylic acid
2-Propylacrylic acid (5.0 g, 43.80 mmol) was added to a solution of toluene-4-sulfonyl iodide (14.32 g, 65.70 mmol) in dichloromethane (100 ml). The solution was stirred overnight at room temperature and then cooled to 0° C. Triethylamine (12.2 ml, 87.6 mmol) was added and the solution was stirred for 1 hour then allowed to warm to room temperature over 2 hours. The organic solution was washed with water (100 ml), 1N hydrochloric acid ((100 ml) 10% aqueous sodium bisulfite (50 ml), then extracted with sodium hydroxide (5 g) in water (100 ml). The aqueous layer was washed with ethyl acetate (20 ml) and then acidifed with conc. sulfuric acid (3 ml). The product was extracted into ethyl acetate (2×50 ml) and the combined organic layers were washed with brine (20 ml), dried over magnesium sulfate, filtered and evaporated to give the title compound in 85% yield. This yellow solid was dissolved in methanol (100 ml ) and stirred with activated charcoal (1 g). Filtration and evaporation gave a pale yellow solid which was slurried in dichloromethane:heptane 20:80. Filtration gave the title compound as white crystals (8.3 g, 70%).

reactant | 2-Propylacrylic acid | 43.80 mmol, 5.0 g | C(CC)C(C(=O)O)=C | C6H10O2
reactant | toluene-4-sulfonyl iodide | 65.70 mmol, 14.32 g | C1(=CC=C(C=C1)S(=O)(=O)I)C | C7H7IO2S
reactant | Triethylamine | 87.6 mmol, 12.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (E)-3-(Toluene-4-sulfonyl)-2-propylacrylic acid | 85% yield | C1(=CC=C(C=C1)S(=O)(=O)/C=C(/C(=O)O)\CCC)C | C13H16O4S
